US04143166
A mixture of 7-[2-hydroxyimino-2-(3-hydroxyphenyl)-acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (9.83 g.) and acetic anhydride (200 ml.) was stirred for 5 hours at ambient temperature. The reaction mixture was concentrated under reduced pressure. To the residue was added ether and the mixture was stirred overnight at ambient temperature. Precipitates were collected by filtration, washed thoroughly with ether and dried to give 7-[2-acetoxyimino-2-(3-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (8.5 g.).

reactant | 7-[2-hydroxyimino-2-(3-hydroxyphenyl)-acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 9.83 g | ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC(=CC=C1)O | C18H17N7O6S2
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-[2-acetoxyimino-2-(3-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 8.5 g | C(C)(=O)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC(=CC=C1)O | C20H19N7O7S2
